US04960784
Step A: 4-chloro-2-(2-phenylethyl)benzeneacetic acid, methyl ester
To a solution of 4.35 g of 60% sodium hydride in 50 ml of DMF was added dropwise 20.0 g of methyl 4-chlorophenyl acetate in 25 ml of DMF. Once the evolution had ceased a mixture of 20.0 g of 2-bromoethyl benzene in 25 m of DMF was added and the reaction was stirred at room temPerature overnight. The reaction was then partitioned between 400 ml of ether and 200 ml of H2O. The ether extracts were washed with H2O, dried over magnesium sulfate, filtered and concentrated to 32.9 g of a yellow oil. Chromatography on silica gel with 5% ethyl acetate in hexane afforded 12.6 g of the title compound as a clear, colorless oil.

reactant | sodium hydride | 4.35 g | [H-].[Na+]
reactant | methyl 4-chlorophenyl acetate | 20.0 g | COC(=O)CC1=CC=C(C=C1)Cl | C9H9ClO2
reactant | 2-bromoethyl benzene | 20.0 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-chloro-2-(2-phenylethyl)benzeneacetic acid, methyl ester | 12.6 g | ClC1=CC(=C(C=C1)CC(=O)OC)CCC1=CC=CC=C1 | C17H17ClO2
